US04182776
Ethyl p-(6-phenoxyhexylamino)benzoate
A solution of 13.6 g of 6-(phenoxy)-1-hexanol O-methanesulfonate and 16.5 g of ethyl p-aminobenzoate in 75 ml of hexamethylphosphoramide is heated at 110° C. for 16 hours. The product is isolated as described in Example 3 to give crystals. Recrystallization from ethanol gives crystals, mp 105°-108° C.

reactant | 6-(phenoxy)-1-hexanol O-methanesulfonate | 13.6 g | CS(=O)(=O)OCCCCCCOC1=CC=CC=C1 | C13H20O4S
reactant | ethyl p-aminobenzoate | 16.5 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
solvent | hexamethylphosphoramide | 75 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Ethyl p-(6-phenoxyhexylamino)benzoate | O(C1=CC=CC=C1)CCCCCCNC1=CC=C(C(=O)OCC)C=C1 | C21H27NO3
